US06174889B1
2-(4-Methyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)furan
3-Methyl-3-oxetane)methyl 2-furoate (11.8 g, 60.1 mmol) was dissolved in dichloromethane (250 ml) and the solution was cooled to 0° C. Boron trifluoride-etherate (10 drops) was added and the mixture stirred at room temperature, and then left to stand for two months. Triethylamine (0.5 ml, 0.36 g, 3.6 mmol) was added and the mixture concentrated to give a sticky white solid. Trituration with ether/acetone gave the title compound as a white solid (2.2 g, 11.2 mmol, 19%); δH [2H6]DMSO 8.00 (1H,s), 7.34 (1H,d), 7.71 (1H,dd), 4.44 (2H,d), 4.35 (2H,s), 4.28 (2H,d), 1.31 (3H,s).

reactant | methyl 2-furoate | 60.1 mmol, 11.8 g | O1C(=CC=C1)C(=O)OC | C6H6O3
reactant | Triethylamine | 3.6 mmol, 0.5 ml, 0.36 g | C(C)N(CC)CC | C6H15N
reactant | ether acetone | CCOCC.CC(=O)C
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | Boron trifluoride-etherate | 10 drops | B(F)(F)F.CCOCC
product | 2-(4-Methyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)furan | 11.2 mmol, 2.2 g, 19% | CC12COC(OC1)(OC2)C=2OC=CC2 | C10H12O4
